US07700633B2
A. 1,1,1-Trifluoro-pent-4-en-2-ol
To a suspension of indium powder (2.3 g, 20 mmol) in water is added allyl bromide (2.5 mL, 30 mmol) followed by trifluoroacetaldehyde ethyl hemiacetal (1.3 mL, 10 mmol). The reaction mixture is stirred for 16 h and then extracted with t-butyl methyl ether (50 mL). The organic layer is washed with water, brine, dried with Na2SO4 and concentrated to give the title compound as a colorless oil.

reactant | indium | 20 mmol, 2.3 g | [In] | In
reactant | allyl bromide | 30 mmol, 2.5 mL | C(C=C)Br | C3H5Br
reactant | trifluoroacetaldehyde ethyl hemiacetal | 10 mmol, 1.3 mL | C(C)OC(C(F)(F)F)O | C4H7F3O2
solvent | water | O | H2O
product | 1,1,1-Trifluoro-pent-4-en-2-ol | FC(C(CC=C)O)(F)F | C5H7F3O
